US06562849B1
t-Butyl (7-hydroxynaphthalen-1-yl)carbamate
Di-t-butyl dicarbonate (65.8 g) was added dropwise to a mixture of 1-amino-7-naphthol (24.0 g), triethylamine (61.0 g), 1,4-dioxane (100 ml) and water (100 ml). The mixture was stirred at room temperature for 23 hours. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated. To a solution of the residue in methanol (370 ml) was added sodium methoxide (7.02 g) in an ice bath. The mixture was stirred at room temperature overnight. The reaction mixture was concentrated and to the residue was added water. The mixture was neutralized with 2N hydrochloric acid and then extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=1:2 as the eluant to afford the desired compound (32.5 g, Rf=0.26: thin layer chromatography on a silica gel plate using n-hexane:ethyl acetate=3:1 as the eluant).

reactant | Di-t-butyl dicarbonate | 65.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-amino-7-naphthol | 24.0 g | NC1=CC=CC2=CC=C(C=C12)O | C10H9NO
reactant | triethylamine | 61.0 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | t-Butyl (7-hydroxynaphthalen-1-yl)carbamate | OC1=CC=C2C=CC=C(C2=C1)NC(OC(C)(C)C)=O | C15H17NO3
